US05739345
2-Methylamino-3-nitro-6-phenylpyridine
50 ml of a 2N aqueous solution of sodium carbonate and 0.34 g of 20% w/w palladium hydroxide on charcoal were added to a solution of 5.0 g of 6-chloro-2-methylamino-3-nitropyridine (prepared as described in Preparation 66) and 3.9 g of phenyl borate in 80 ml of a 1:1 by volume mixture of ethanol and toluene, and the resulting mixture was stirred at 105° C. for 4.5 hours. At the end of this time, the reaction mixture was filtered to remove the palladium hydroxide on charcoal. The filtrate was concentrated by evaporation under reduced pressure, and the concentrate was diluted with water, after which it was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous sodium sulfate, after which the solvent was removed by distillation under reduced pressure. The residue was crystallized by trituration with ethanol, to give 4.75 g of the title compound, melting at 98°-99° C.

reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 6-chloro-2-methylamino-3-nitropyridine | 5.0 g | ClC1=CC=C(C(=N1)NC)[N+](=O)[O-] | C6H6ClN3O2
reactant | phenyl borate | 3.9 g | B(OC1=CC=CC=C1)([O-])[O-]
reactant | ethanol | C(C)O | C2H6O
catalyst | palladium hydroxide on charcoal | [OH-].[OH-].[Pd+2]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-Methylamino-3-nitro-6-phenylpyridine | 4.75 g | CNC1=NC(=CC=C1[N+](=O)[O-])C1=CC=CC=C1 | C12H11N3O2
